US05834493
5-methoxy-3-(N-methyl-1,2,5,6-tetrahydro-pyridin-3-yl-methyl)-1H-indole
Sodium borohydride in pellets (5.71 g; 0.0396 mol) was added to a cold (~0° C.) stirring mixture of compound of Description 7 [3-[(5-methoxy-1H-indol-3-yl)methyl]-1-methyl-pyridinium iodide] (7.45 g; 0.0196 mol) in methanol (150 ml). The reaction mixture was stirred at 0° C. for 2 hours. The reaction was then quenched with a saturated solution of aqueous sodium carbonate and the solvent (methanol) was evaporated under vacuum. The product was extracted with methylene chloride from the residual alkaline aqueous solution. The organic extract was dried (MgSO4) and evaporated under vacuum. Purification by Flash Chromatography of the crude product using silica gel and elution with methylene chloride/methanol/ammonia (90/10/1) yielded the desired compound. A solution of the desired compound in diethyl ether was saturated with gaseous hydrogen chloride. A white solid was precipitated. The title compound hydrochloride was collected by filtration, washed with diethyl ether and dried under vacuum (3.5 g).

reactant | Sodium borohydride | [BH4-].[Na+]
reactant | 3-[(5-methoxy-1H-indol-3-yl)methyl]-1-methyl-pyridinium iodide | [I-].COC=1C=C2C(=CNC2=CC1)CC=1C=[N+](C=CC1)C
solvent | methanol | 150 ml | CO | CH4O
product | 5-methoxy-3-(N-methyl-1,2,5,6-tetrahydro-pyridin-3-yl-methyl)-1H-indole | COC=1C=C2C(=CNC2=CC1)CC=1CN(CCC1)C | C16H20N2O
